US06723722B1
1-(2-Chloroethyl)-4-[4-[4-(6-chloronaphthalene-2-sulfonyl)-2-oxo-1-piperazinylamino]-1-piperidinyl]pyridinium Chloride
A solution of 1-amino-4-(6-chloronaphthalene-2-sulfonyl)-2-piperazinone (33.98 g) and 1-(4-pyridyl)-4-piperidone (18.50 g) in ethanol (1 L)/1,2-dichloroethane (300 ml) was dehydrated using a Soxlet extractor packed with molecular sieves 4A while refluxing for 3 days. Any insolubles were filtered off and the reaction mixture was concentrated to obtain a residue, which was dissolved in methanol (1 L), combined with acetic acid (33.82 g) while cooling on ice, followed by sodium cyanoborohydride (17.06 g) and then stirred at room temperature for 1 hour. The reaction mixture was concentrated and the residue was dissolved in dichloromethane, washed with aqueous sodium bicarbonate and brine, dried, concentrated and purified by a column chromatography on a silica gel (dichloromethane: methanol=10:1 to dichloromethane: methanol: triethylamine=40:2:1) and a column chromatography on a basic silica gel (tetrahydrofuran to methanol) to obtain the title compound (30 g) as a colorless amorphous material.

reactant | 1-amino-4-(6-chloronaphthalene-2-sulfonyl)-2-piperazinone | 33.98 g | NN1C(CN(CC1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl)=O | C14H14ClN3O3S
reactant | 1-(4-pyridyl)-4-piperidone | 18.50 g | N1=CC=C(C=C1)N1CCC(CC1)=O | C10H12N2O
reactant | 1,2-dichloroethane | 300 ml | ClCCCl | C2H4Cl2
reactant | sodium cyanoborohydride | 17.06 g | C(#N)[BH3-].[Na+]
solvent | ethanol | 1 L | C(C)O | C2H6O
solvent | methanol | 1 L | CO | CH4O
solvent | acetic acid | 33.82 g | C(C)(=O)O | C2H4O2
product | 1-(2-Chloroethyl)-4-[4-[4-(6-chloronaphthalene-2-sulfonyl)-2-oxo-1-piperazinylamino]-1-piperidinyl]pyridinium Chloride | 30 g | [Cl-].ClCC[N+]1=CC=C(C=C1)N1CCC(CC1)NN1C(CN(CC1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl)=O | InChI=1S/C26H30Cl2N5O3S.ClH/c27-9-14-30-10-7-24(8-11-30)31-12-5-23(6-13-31)29-33-16-15-32(19-26(33)34)37(35,36)25-4-2-20-17-22(28)3-1-21(20)18-25;/h1-4,7-8,10-11,17-18,23,29H,5-6,9,12-16,19H2;1H/q+1;/p-1
